US07351858B2
[4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid (0.250 g, 0.722 mmol) was dissolved in DCM (10 ml) and N-(2-chlorobenzyl)-N-ethylamine (0.116 g, 0.686 mmol) was added. N-[(1H-1,2,3-Benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.255 g, 0.0.794 mmol) and N-ethyl-N,N-diisopropylamine (0.187 g, 1.443 mmol) were added. The solution was stirred for 2 hours at room temperature. The crude was purified by flash chromatography (started with isocratic DCM 100% and then the MeOH concentration was increased from 0.5% to 20%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation. The substance needed to be purified once more and it was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. The ammonium acetate was removed by freeze drying the product overnight to give 0.111 g of methyl 2-{[2-(4-{2-[(2-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoate (yield 30.9%).

reactant | [4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid | 0.722 mmol, 0.250 g | COC(=O)C1=C(C=CC=C1)SCCC1=CC=C(OCC(=O)O)C=C1 | C18H18O5S
reactant | N-(2-chlorobenzyl)-N-ethylamine | 0.686 mmol, 0.116 g | ClC1=C(CNCC)C=CC=C1 | C9H12ClN
reactant | N-[(1H-1,2,3-Benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 0.255 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 1.443 mmol, 0.187 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 2-{[2-(4-{2-[(2-chlorobenzyl)(ethyl)amino]-2-oxoethoxy}phenyl)ethyl]thio}benzoate | 0.111 g, yield 30.9% | ClC1=C(CN(C(COC2=CC=C(C=C2)CCSC2=C(C(=O)OC)C=CC=C2)=O)CC)C=CC=C1 | C27H28ClNO4S
